US04391816
3-Chloro-4-methoxy-5-(dimethylaminosulfonyl)-1-naphthalenecarboxylic Acid [II, R3 =3-Cl, 4-CH3O and 5-(CH3)2NSO2 ]
4-Methoxy-5-(dimethylaminosulfonyl)-1-naphthalenecarboxylic acid (15.26 g, 50 mmoles), described in Example 1a) was suspended in acetic acid (46 ml). Sulfuryl chloride (6 ml, 75 mmoles) was added portionwise to the suspension at such a rate that the temperature did not exceed 32° C. The resulting solution was stirred at 20°-22° C. for 2 hr and then poured into 460 ml of ice water. The mixture was stirred for 30 min. The precipitate was collected and dried over P2O5 to give 16.7 g of the title compound; mp 127°-137° C.; NMR (CDCl3) δ 3.05 (s, 6H), 4.12 (s, 3H), 8.0 (broad, 1H), 7.7 and 9.25 (m, 4H).

reactant | 4-Methoxy-5-(dimethylaminosulfonyl)-1-naphthalenecarboxylic acid | 50 mmoles, 15.26 g | COC1=CC=C(C2=CC=CC(=C12)S(=O)(=O)N(C)C)C(=O)O | C14H15NO5S
reactant | Sulfuryl chloride | 75 mmoles, 6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 46 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-4-methoxy-5-(dimethylaminosulfonyl)-1-naphthalenecarboxylic Acid | 16.7 g | ClC=1C=C(C2=CC=CC(=C2C1OC)S(=O)(=O)N(C)C)C(=O)O | C14H14ClNO5S
